US04960884
Under a dry nitrogen atmosphere 1.1 gram (0.047 mole) of sodium metal was added to a stirred, cold (0° C.) solution of 3.0 grams (0.046 mole) of 2-fluoroethanol in 50 ml of dry tetrahydrofuran. After the sodium had dissolved, the solution was heated at reflux, and a solution of 5.0 grams (0.023 mole) of 3-bromomethylnitrobenzene in 10 ml of dry tetrahydrofuran was added dropwise. This mixture was heated at reflux for 24 hours and then was cooled. The reaction mixture was diluted with water, then was extracted with diethyl ether. The organic extract was washed with an aqueous, saturated, sodium chloride solution. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with n-hexane:diethyl ether (4:1), to yield 0.8 gram of 2-fluoroethyl 3-nitrobenzyl ether as an oil.

reactant | sodium | 0.047 mole, 1.1 gram | [Na] | Na
reactant | 2-fluoroethanol | 0.046 mole, 3.0 grams | FCCO | C2H5FO
reactant | 3-bromomethylnitrobenzene | 0.023 mole, 5.0 grams | BrCC=1C=C(C=CC1)[N+](=O)[O-] | C7H6BrNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-fluoroethyl 3-nitrobenzyl ether | 0.8 gram | [N+](=O)([O-])C=1C=C(COCCF)C=CC1 | C9H10FNO3
